US07714009B2
7-[(4-Chlorophenyl)amino]-1-methyl-1,3-dihydro-2H-benzimidazol-2-one
A mixture of 7-amino-1-methyl-1,3-dihydrobenzimidazol-2-one (5.0 g, 30.6 mmol), biphenyl-2-yl-dicyclohexylphosphine (0.537 g, 1.53 mmol), sodium tert-butoxide (7.4 g, 2.5 mmol) and tris(dibenzylidineacetone)dipalladium (0.56 g, 0.61 mmol) and dioxane (80 ml) was treated with 4-bromoanisole (6.16 g, 32.2 mmol) and refluxed for 22 h. The crude reaction mixture was cooled, poured into water (200 ml) and neutralized to pH8 by saturated aqueous ammonium chloride. The precipitate was filtered, washed with water and dried. Recrystallization from ethanol gave 3.69 g (44%) of the title compound as a tan powder.

reactant | 7-amino-1-methyl-1,3-dihydrobenzimidazol-2-one | 30.6 mmol, 5.0 g | NC1=CC=CC2=C1N(C(N2)=O)C | C8H9N3O
reactant | biphenyl-2-yl-dicyclohexylphosphine | 1.53 mmol, 0.537 g | C1(=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1=CC=CC=C1 | C24H31P
reactant | sodium tert-butoxide | 2.5 mmol, 7.4 g | CC(C)([O-])C.[Na+]
reactant | 4-bromoanisole | 32.2 mmol, 6.16 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | water | 200 ml | O | H2O
solvent | dioxane | 80 ml | O1CCOCC1 | C4H8O2
product | 7-[(4-Chlorophenyl)amino]-1-methyl-1,3-dihydro-2H-benzimidazol-2-one | 3.69 g, 44% | ClC1=CC=C(C=C1)NC1=CC=CC2=C1N(C(N2)=O)C | C14H12ClN3O
